US08648086B2
A round-bottom flask was charged with 3-[(4-nitro-1H-indol-1-yl)methyl]-1-(t-butyloxycarbonyl)-1H-pyrrolo[2,3-b]pyridine (510 mg, 1.3 mmol), Pd/C (50 mg, 10%) and THF (30 mL). The mixture was then stirred under a hydrogen atmosphere for 2 h, filtered, and concentrated under reduced pressure to afford 3-[(4-amino-1H-indol-1-yl)methyl]-1-(t-butyloxycarbonyl)-1H-pyrrolo[2,3-b]pyridine (470 mg).

reactant | 3-[(4-nitro-1H-indol-1-yl)methyl]-1-(t-butyloxycarbonyl)-1H-pyrrolo[2,3-b]pyridine | 1.3 mmol, 510 mg | [N+](=O)([O-])C1=C2C=CN(C2=CC=C1)CC1=CN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C21H20N4O4
catalyst | Pd/C | 50 mg | [Pd] | Pd
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-[(4-amino-1H-indol-1-yl)methyl]-1-(t-butyloxycarbonyl)-1H-pyrrolo[2,3-b]pyridine | 470 mg | NC1=C2C=CN(C2=CC=C1)CC1=CN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C21H22N4O2
